Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Hypovolemic Shock, Cardiac Arrest
 
Major Surgical or Invasive Procedure:
Placement of right femoral trauma line
 
History of Present Illness:
This is ___ year old lady with a past medical history significant 
only for hypertension who presents status post cardiac arrest 
with lower GI bleed, now intubated, on pressors status post 
volume resuscitation.
.
The patient phoned her family this morning reporting that she 
went to the bathroom and had a bowel movement and felt unwell.  
The family arrived within 15 minutes and found her to have have 
agonal respirations with a dark brown non bloody movement. CPR 
was not initiated. EMS was called, and arrived ___ minutes 
later and found the patient pulseless and apneic. The patient 
received a ___ minutes of CPR and was asystolic on monitor.  
2mg total of epinephrine were administered prior to ROSC. She 
was intubated in the field with 7.0 tube and was given 
vecuronium. 
.
On transfer to ___, the patient was in atrial fibrillation 
with initial vital signs 64 113/62 18  Subsequently, heart rate 
and blood pressure both began to drop. Patient then had multiple 
episodes of melena/rectal bleeding, and was hypotensive to ___. 
She was immediately given emergency 0- blood x ___ 
right femoral cordis line (placed sterile) and was started on 
levophed. She received an additional 2 units of crossmatched 
blood and 2 units of FFP with slowing of bleed. Initial labs 
studies signficant for ABG ___, lactate 10.5 and Hct 
post rescussitation of 34, creatinine of 1.2 (baseline 0.9) and 
potassium of 5.3 and lipase 62. She was given calcium gluconate 
and sodium bicarbonate.  Repeat ABG ___. She was 
unresponsive and did not require any sedation for the first 3 
hours of her ED course. Physical exam significant for tenderness 
to abdominal palpation for which she was given a 1x dose of 
versed 2mg IV. A CT head demonstrated no acute intracranial 
hemorrhage however presence of bilateral hypodense basal ganglia 
concerning for acute hypoxia. A CTA abdomen and pelvis 
demonstrated non specific findings however no clear etiology to 
abdominal swelling or bleed. The post arrest team evaluated 
patient and opted to not initate cooling protocol given 
increased bleeding and hemodynamic instability. GI was 
consulted. A NGL was negative and the patient was given 80mg IV 
protonix and started on gtt. No plans for emergent scope.
. 
The patient is full code.  The family at bedside, son is health 
care ___ confirmed by family members. Social work met with 
family.  The family is aware of patient's prognosis.
.
On transfer, the patients 72 145/64 99 on vent settings fio2 60% 
PEEP 6 and Vt 450. She is on protonix gtt with fentanyl and 
versed given aggitation. 
.
REVEIW OF SYSTEMS (per patient family)
.  
No recent complaints, patient intubated.

 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes+ (diet controlled), 
Dyslipidemia, Hypertension+ 
2. CARDIAC HISTORY:  
- CABG:  
- PERCUTANEOUS CORONARY INTERVENTIONS:  
- PACING/ICD:  
3. OTHER PAST MEDICAL HISTORY:  
* Hypertension
* Cataracts
* Mild COPD 
* Diverticulosis 
* Small hiatal hernia 
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
VS: Hr 73 BP 138/66 RR 14 O2 100% 
GENERAL:intubated, sedated not responsive to stimuli (pain, 
auditory)
HEENT: Sclera anicteric. Pupils non reactive to light. 
NECK: JVP not elevated on exam
CARDIAC: irregular rhythm, normal S1, S2. No m/r/g  
LUNGS: Course labored ventilated breath sounds bilaterally. No 
crackles on anterior exam.  
ABDOMEN: Markedly distended on exam, soft and tense w/ 
ventilatory cycle. Hypoactive bowel sounds.    
EXTREMITIES: 1+ pitting edema of feet, No femoral bruits.  
PULSES: 1+ in lower extremities
SKIN: No stasis dermatitis, ulcers, scars, or petechia, rashes
NEURO: fixed pupils 2-3mm non reactive to light, non responsive 
to painful or verbal stimuli, symmetric face. Observed myoclonic 
jercks involving upper and lower extremities. Patellar, 
brachialis reflexes could not be elicited. No babinski elicited.

 
Pertinent Results:
___ 10:05AM BLOOD WBC-10.1 RBC-2.89* Hgb-9.3* Hct-31.4* 
MCV-109* MCH-32.3* MCHC-29.7* RDW-14.0 Plt ___
___ 05:00PM BLOOD Neuts-77* Bands-2 Lymphs-5* Monos-16* 
Eos-0 Baso-0 ___ Myelos-0
___ 08:00AM BLOOD ___ PTT-28.5 ___
___ 10:05AM BLOOD ___ PTT-44.8* ___
___ 10:05AM BLOOD ___ 08:00AM BLOOD Glucose-120* UreaN-37* Creat-1.7* Na-141 
K-5.5* Cl-108 HCO3-24 AnGap-15
___ 10:47AM BLOOD Na-142 K-5.3* Cl-111*
___ 10:05AM BLOOD UreaN-28* Creat-1.2*
___ 08:00AM BLOOD ALT-155* AST-152* LD(LDH)-526* 
CK(CPK)-1119* AlkPhos-73 TotBili-2.0*
___ 10:05AM BLOOD ALT-174* AST-213* CK(CPK)-152 AlkPhos-81 
TotBili-0.3
___ 08:00AM BLOOD CK-MB-9 cTropnT-0.10*
___ 10:17PM BLOOD CK-MB-15* MB Indx-2.9 cTropnT-0.10*
___ 10:05AM BLOOD cTropnT-<0.01
___ 08:00AM BLOOD Calcium-7.4* Phos-2.1*# Mg-2.3
___ 07:11PM BLOOD Calcium-7.6* Phos-2.2*# Mg-2.3
.
TOXICOLOGY
___ 10:05AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
.
BLOOD GASES
___ 06:41AM BLOOD Type-ART pO2-119* pCO2-30* pH-7.46* 
calTCO2-22 Base XS-0
___ 06:05AM BLOOD ___ Temp-39.4 pO2-33* pCO2-41 
pH-7.40 calTCO2-26 Base XS--1 Intubat-INTUBATED
___ 09:47PM BLOOD ___ Temp-36.0 pO2-35* pCO2-57* 
pH-7.20* calTCO2-23 Base XS--7 Intubat-INTUBATED
___ 07:38PM BLOOD Type-ART Temp-36.1 pO2-92 pCO2-59* 
pH-7.14* calTCO2-21 Base XS--9 Intubat-INTUBATED
___ 12:23PM BLOOD Type-ART pO2-136* pCO2-43 pH-7.15* 
calTCO2-16* Base XS--13
___ 10:14AM BLOOD Type-ART pO2-7* pCO2-57* pH-6.96* 
calTCO2-14* Base XS--23
.
LACTATE/Free Calcium
___ 06:41AM BLOOD Lactate-2.9*
___ 10:32AM BLOOD Glucose-347* Lactate-10.5* Na-142 K-5.3 
Cl-113* calHCO3-14*
___:05AM BLOOD freeCa-1.00*
___ 07:38PM BLOOD freeCa-1.06*
.
CT HEAD WITHOUT CONTRAST ___
1. No acute intracranial hemorrhage. 
2. Prominent symmetric hypodensity of the basal ganglia 
bilaterally. This 
finding is nonspecific, though can be seen in the setting of 
acute hypoxia (in this patient with recent cardiac arrest). 
3. Paranasal sinus disease. 
.
CTA ABDOMEN AND PELVIS WITHOUT CONTRAST ___
IMPRESSION: 
1. No apparent etiology to abdominal distention or GI bleeding. 
2. Small amount of stranding and free fluid in the abdomen as 
well as 
intralobular septal thickening at the lung bases, likely related 
to volume 
resuscitation. 
3. Atherosclerotic disease. 
4. Small areas of hepatic enhancement. If clinically relevant, 
would 
recommend comparison to any prior imaging or evaluation via MRI. 

5. Atherosclerotic disease. 
6. Large left adnexal cyst, stable as best can be determined. 
.
KUB  ___ A single frontal view of the supine abdomen shows 
no particular distention of the intestinal tract. A nasogastric 
tube ends in a nondilated stomach. 
.
CHEST XRAY ___
The endotracheal tube terminates 3.6 cm 
above the carina. An orogastric tube is noted and appears to be 
coiled and 
kinked in the upper esophagus/hypopharynx. The distal end of the 
orogastric tube does not go beyond the GE junction. 
Allowing for technique, the heart is markedly enlarged. In 
addition, there is bilateral interstitial opacity compatible 
with edema. However underlying or developing infection or 
aspiration cannot be excluded. A small right pleural effusion is 
noted, but there is no large pleural effusion. There is no 
pneumothorax. The aorta is tortuous with atherosclerotic 
calcification.  Several rounded ossific densities are noted in 
the right shoulder inferiorly, suspect synovial 
osteochondromatosis. 
.
CHEST XRAY ___
In addition to increasing mild pulmonary edema there may be 
focal 
consolidation in the right upper lobe or this could be simulated 
by fissural pleural fluid. Severe cardiomegaly is more 
pronounced and so is mediastinal vascular engorgement. ET tube 
in standard placement. Nasogastric tube is looped in the upper 
stomach. No pneumothorax. 

 
Brief Hospital Course:
HOSPITAL COURSE
This is a ___ year old lady with a history of hypertension who 
presented status post cardiac arrest likely in the setting of 
hypovolemic shock secondary to lower GI bleed.  After 
resuscitation and stabilization in the cardiac ICU, neurologic 
evaluation revealed seizure activity and minimal brain stem 
reflexes. She was made comfort measures only and expired 
surrounded by family.  Cultural death traditions were addressed 
and accommodated.
.  
ACTIVE ISSUES
# GOALS OF CARE: Goals of care addressed with patient's family 
both in the emergency department and on arrival to the floor. 
Social work was consulted in ED to assist with discussion.  
Large involved family with multiple children and grandchildren 
present at bedside.  Family understood grave prognosis and 
initially kept patient full code.  On the day following 
admission, neurology exam off sedation revealed minimal brain 
stem reflexes and no motor activity. CT imaging of head on 
admission consistent with anoxic injury.  EEG demonstrated 
seizure activity consistent. In setting of neurologic findings, 
the health care proxy and family decided to make the patient 
comfortable and expired the following morning.  Cultural death 
traditions were acknowledged and the patient remained inpatient 
surrounded by her family for 8 hours post mortem.
.
# LOWER GI BLEED: Etiology of acute bleed unknown.  Unremarkable 
CTA abdomen and pelvis barring underlying chronic changes. 
Differential for melena and frank hematochezia concerning for 
brisk upper GI bleed versus lower GI bleed. While NG lavage 
negative, sources of upper GI bleed include varices, PUD etc.  
Sources of lower GI bleed concerning for diverticulitis given 
prior history of diverticulosis on prior CT in ___, 
hemorrhoidal bleed, and mesenteric ischemia, known CAD h/o and 
prior infarct noted on EKG. After receiving 4 units of pRBC and 
2 units of FFP, her hematocrit was stable and bleeding 
apparently stopped. She was started on IV pantoprazole gtt.
.
# NEURO PROTECTION STATUS POST ARREST: Interval between arrest 
and initiation of CPR at minimum 15 minutes and ___ minutes of 
CPR performed prior to ROSC for a total minimum of ___. 
Cardiac Arrest team was consulted in the ED and opted against 
cooling protocol given hemodynamic instability and ongoing 
gastro-intestinal bleed.  CT head demonstrated bilateral 
hypodense basal ganglia, a non-specific finding that in the 
setting of cardiac infarction concerning for acute hypoxia. The 
patient was initially kept normothermic, with head at 30 degrees 
and given 3 amps of bicarbonate to keep PCO2 between 35 and 40. 
Mean arterial pressure was kept at 65. Neurology was consulted 
and exam off sedation demonstrated minimal brainstem reflexes 
without motor activity.  EEG demonstrated seizure activity.
.  
# SHOCK: Hypovolemic shock in the setting of acute bleed of 
unclear source. Transaminate and elevated creatinine indicative 
of end organ damage. The patient was anuric on admission. The 
patient required significant volume resuscitation prior to 
transfer with both blood products and fluid boluses.  Levophed 
and periodic NS boluses were administered to keep mean arterial 
pressures above 65.  She was weaned off intermittant volume 
resuscitation and pressor support overnight.
.
# ACIDEMIA: Primary lactic acidosis (AG metabolic acidosis) and 
primary respiratory acidosis during arrest. Lactate 10.7 on 
admission. She was fluid resuscitated and mean arterial pressure 
was kept above 65.
.
INACTIVE ISSUES
# HYPERTENSION: History of hypertension on lisinopril, 
hydrochlorothiazide. Held antihypertensives given shock.
.
# CORONARY ARTERY DISEASE: History of ischemic CAD by review of 
current EKG and prior EKG from ___ with evidence of old 
anterior septal q waves. Unknown medical history. Cardiac 
regimen at home including amlodipine, HCTZ and lisinopril held 
in setting of hypovolemic shock.
.  
# VI TAMEN D DEFICIENCY: Held all oral medications while 
inpatient. On vitamin D supplementation at home.
.  
# COPD: On albuterol at home. No evidence of wheeze on exam.
.
TRANSITION OF CARE
patient expired
 
Medications on Admission:
1. Albuterol HFA 90mcg 2 puffs q6hrs prn
2. Amlodipine 5mg 1 tab qdaily
3. Lisinopril 20 mg qdaily
4. Omeprazole 20mg qdaily
5. Alendronate 70mg qdaily
6. Caltrate 600mg BID
7. Vitamen D 50, 000 units qmonthly
8. Hctz 12.5 mg daily 
9. Started on additional antihypertensive recently - family 
unaware of name (?___)
 
___ Medications:
patient expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
patient expired
 
Discharge Condition:
patient expired
 
Discharge Instructions:
patient expired
 
Followup Instructions:
___